US04476308
Preparation of (R/S)-cis-N-[4-(2,6-dimethyl-1-piperidinyl)butyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide
3.0 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate and 5.9 g of cis-4-(2,6-dimethyl-1-piperidinyl)butylamine are heated to 95°-100° for 3.5 hours under nitrogen. The mixture is chromatographed on 70 g of aluminum oxide (activity grade III, neutral). The (R/S)-cis-N-[4-(2,6-dimethyl-1-piperidinyl)butyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide which is eluted with ethanol has a melting point of 90°-92° after crystallization from diethyl ether.

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 3.0 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | cis-4-(2,6-dimethyl-1-piperidinyl)butylamine | 5.9 g | C[C@@H]1N([C@@H](CCC1)C)CCCCN | C11H24N2
product | (R/S)-cis-N-[4-(2,6-dimethyl-1-piperidinyl)butyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | C[C@@H]1N([C@@H](CCC1)C)CCCCNC(CN1C(C(CC1)O)=O)=O | C17H31N3O3
